US07157487B2
(Step 7) Synthesis of 4-((2S,4S)-1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-4-phenoxy-2pyrrolidinylmethoxy)benzoic acid
To a solution of methyl 4-((2S,4S)-1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-4-phenoxy-2-pyrrolidinylmethoxy)benzoate (640 mg, 1.07 mmol) in THF (30 ml) was added 0.25N NaOH (30 ml). The resulting mixture was stirred at room temperature for 14 hours. The reaction mixture was then concentrated under reduced pressure. After addition of 1N HCl to the residue, the crystals thus precipitated were collected by filtration under reduced pressure, washed with water and dried under reduced pressure, whereby the title compound (366 mg, 60%) was obtained as a pale pink solid.

reactant | methyl 4-((2S,4S)-1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-4-phenoxy-2-pyrrolidinylmethoxy)benzoate | 1.07 mmol, 640 mg | CC1=C(C=CC=C1)NC=1OC2=C(N1)C=CC(=C2)CC(=O)N2[C@@H](C[C@@H](C2)OC2=CC=CC=C2)COC2=CC=C(C(=O)OC)C=C2 | C35H33N3O6
reactant | NaOH | 0.25N, 30 ml | [OH-].[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-((2S,4S)-1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-4-phenoxy-2pyrrolidinylmethoxy)benzoic acid | CC1=C(C=CC=C1)NC=1OC2=C(N1)C=CC(=C2)CC(=O)N2[C@@H](C[C@@H](C2)OC2=CC=CC=C2)COC2=CC=C(C(=O)O)C=C2 | C34H31N3O6
